US09328118B2
Trifluoroacetic acid (1 mL) was added to a solution of tert-butyl 4-{2-[4-(2-cyano-8,9-dimethyl-9H-purin-6-yl)-2-(trifluoromethyl)phenoxy]ethyl}piperidine-1-carboxylate (100 mg) in CH2Cl2 (2 mL)-acetonitrile (0.5 mL) at room temperature, and the mixture was stirred at the same temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, and CH2Cl2 (2 mL) was added to the residue. A 4 M solution of hydrogen chloride in EtOAc (0.2 mL) was added to the mixture at room temperature, and the precipitate was collected by filtration, whereby 8,9-dimethyl-6-{4-[2-(piperidin-4-yl)ethoxy]-3-(trifluoromethyl)phenyl}-9H-purine-2-carbonitrile monohydrochloride (59 mg) was obtained as a white solid.

reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-{2-[4-(2-cyano-8,9-dimethyl-9H-purin-6-yl)-2-(trifluoromethyl)phenoxy]ethyl}piperidine-1-carboxylate | 100 mg | C(#N)C1=NC(=C2N=C(N(C2=N1)C)C)C1=CC(=C(OCCC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)C(F)(F)F | C27H31F3N6O3
reactant | acetonitrile | 0.5 mL | C(C)#N | C2H3N
reactant | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 8,9-dimethyl-6-{4-[2-(piperidin-4-yl)ethoxy]-3-(trifluoromethyl)phenyl}-9H-purine-2-carbonitrile monohydrochloride | 59 mg | Cl.CC=1N(C2=NC(=NC(=C2N1)C1=CC(=C(C=C1)OCCC1CCNCC1)C(F)(F)F)C#N)C | InChI=1S/C22H23F3N6O.ClH/c1-13-28-20-19(29-18(12-26)30-21(20)31(13)2)15-3-4-17(16(11-15)22(23,24)25)32-10-7-14-5-8-27-9-6-14;/h3-4,11,14,27H,5-10H2,1-2H3;1H
